US09290451B2
6-Cyclopropylmethoxy-5-methyl-pyridine-2-carboxylic acid (1-methyl-1-thiazol-2-yl-ethyl)-amide
The title compound was synthesized in analogy to Example 1, using 6-cyclopropylmethoxy-5-methyl-pyridine-2-carboxylic acid (Example 36 d) and α,α-dimethyl-2-thiazolemethanamine (CAN 1082393-38-1) as starting materials, MS (EI): m/e=332.2 [M+H]+.

reactant | 6-cyclopropylmethoxy-5-methyl-pyridine-2-carboxylic acid | C1(CC1)COC1=C(C=CC(=N1)C(=O)O)C | C11H13NO3
reactant | α,α-dimethyl-2-thiazolemethanamine | CC(N)(C=1SC=CN1)C | C6H10N2S
product | 6-Cyclopropylmethoxy-5-methyl-pyridine-2-carboxylic acid (1-methyl-1-thiazol-2-yl-ethyl)-amide | CC(C)(C=1SC=CN1)NC(=O)C1=NC(=C(C=C1)C)OCC1CC1 | C17H21N3O2S
